US07235574B2
A solution of 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole (0.30 g, 1.28 mmol) and sodium 4-bromobenzenesulfinate (0.717 g, 2.57 mmol) in N,N-dimethyl formamide (20 ml) was stirred for 3 h at 60° C. After cooling the mixture was poured onto water, extracted with ethyl acetate (3×50 ml), the combined organic layers were washed with water, dried over sodium sulfate, concentrated in vacuo and crystallized from ether/isohexane yielding 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole as white crystalline product. Yield 0.345 g (51%).

reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 1.28 mmol, 0.30 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | sodium 4-bromobenzenesulfinate | 2.57 mmol, 0.717 g | BrC1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | N,N-dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromo-benzenesulfonylmethyl)-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | BrC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C18H13BrF5NO3S2
